US07795250B2
Step 1: Preparation of methyl 3-cyclohexyl-1-[2-(dimethylamino)-2-oxoethyl]-2-(6-methoxypyridin-3-yl)-1H-indole-6-carboxylate
To a solution of methyl 2-bromo-3-cyclohexyl-1-[2-(dimethylamino)-2-oxoethyl]-1H-indole-6-carboxylate (1 eq), prepared as described in Example 3, Step 1, but using 2-chloro-N,N-dimethylacetamide in the alkylation step, in dioxane (0.06 M) was added bistriphenylphosphine-palladium dichloride (0.2 eq). The reaction mixture was left at RT under nitrogen atmosphere for 15 min, at that rime an aqueous solution of Na2CO3 (2 M), (2.93 eq) and 2-methoxy-5-pyridineboronic acid (2.5 eq) were added. The reaction mixture was heated to reflux for 2 h, then was cooled to RT and concentrated in vacuo. The residue was diluted with DCM, filtered and washed with water, brine, dried over Na2SO4, filtered and evaporated in vacuo to give the title compound (85%). 1H NMR (400 MHz; DMSO-d6, 300 K) δ 1.20-1.28 (m, 3H), 1.65-1.85 (m, 7H), 2.50-2.54 (m, 1H), 2.8 (s, 3H), 2.9 (s, 3H), 3.87 (s, 3H), 3.93 (s, 3H), 4.92 (s, 2H), 6.97 (d, J 8.4, 1H), 7.62 (d, J 8.8, 1H), 7.67 (d, J 8.8, 1H), 7.85 (d, J 8.4, 1H), 7.99 (s, 1H), 8.11 (s, 1H); MS (ES+) m/z 450 (M+H)+.

reactant | methyl 2-bromo-3-cyclohexyl-1-[2-(dimethylamino)-2-oxoethyl]-1H-indole-6-carboxylate | 1 eq | BrC=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CC(=O)N(C)C | C20H25BrN2O3
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
reactant | Na2CO3 | 2 M, 2.93 eq | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-methoxy-5-pyridineboronic acid | 2.5 eq | COC1=NC=C(C=C1)B(O)O | C6H8BNO3
solvent | dioxane | 0.06 M | O1CCOCC1 | C4H8O2
product | methyl 3-cyclohexyl-1-[2-(dimethylamino)-2-oxoethyl]-2-(6-methoxypyridin-3-yl)-1H-indole-6-carboxylate | 85% | C1(CCCCC1)C1=C(N(C2=CC(=CC=C12)C(=O)OC)CC(=O)N(C)C)C=1C=NC(=CC1)OC | C26H31N3O4
